US07595312B2
4-{(S)-2-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-4-oxo-4-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidin-1-yl]-butyryl}-piperazin-1-sulphonic acid (1-methyl-piperidin-4-yl)-amide
A solution of 500 mg (0.90 mmol) (S)-2-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-4-oxo-4-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidin-1-yl]-butanoic acid and 320 mg (1.00 mmol) TBTU in 0.2 mL (1.14 mmol) ethyldiisopropylamine and 50 mL THF was stirred for 1 h at RT. Then 270 mg (1.03 mmol) piperazin-1-sulphonic acid-(1-methyl-piperidin-4-yl)-amide and 5 mL DMF were added. The reaction solution was stirred overnight at RT. The reaction mixture was diluted with 50 mL EtOAc, extracted with 30 mL 15% K2CO3 solution and the organic phase was dried over Na2SO4. After the desiccant and solvent had been eliminated the residue was purified by chromatography (silica gel, gradient: DCM to DCM/MeOH/NH3 10:9:1).

reactant | (S)-2-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-4-oxo-4-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidin-1-yl]-butanoic acid | 0.90 mmol, 500 mg | NC1=C(C=C(C[C@H](C(=O)O)CC(N2CCC(CC2)N2C(NC3=C(CC2)C=CC=C3)=O)=O)C=C1C(F)(F)F)Cl | C26H28ClF3N4O4
reactant | TBTU | 1.00 mmol, 320 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | ethyldiisopropylamine | 1.14 mmol, 0.2 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | piperazin-1-sulphonic acid-(1-methyl-piperidin-4-yl)-amide | 1.03 mmol, 270 mg | CN1CCC(CC1)NS(=O)(=O)N1CCNCC1 | C10H22N4O2S
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 4-{(S)-2-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-4-oxo-4-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidin-1-yl]-butyryl}-piperazin-1-sulphonic acid (1-methyl-piperidin-4-yl)-amide | CN1CCC(CC1)NS(=O)(=O)N1CCN(CC1)C([C@H](CC(N1CCC(CC1)N1C(NC2=C(CC1)C=CC=C2)=O)=O)CC2=CC(=C(C(=C2)C(F)(F)F)N)Cl)=O | C36H48ClF3N8O5S
